Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / tramadol / 
tramadol
 
Attending: ___.
 
Chief Complaint:
BPH
 
Major Surgical or Invasive Procedure:
Transurethral Resection of Prostate 

 
History of Present Illness:
___ yo M He is a gentleman with a history of UTI with outlet 
obstructive symptoms, UDS revealing grade ___ obstruction 
___ criteria with weak detrusor, despite flomax.  He is here 
for surgical managment.    

 
Past Medical History:
 Bradycardia  
 CKD (chronic kidney disease) stage 2, GFR ___ ml/min  
 CUBITAL CANAL COMPRESSION, Right  
 SCREENING FOR COLON CANCER  
 INJURY - BRACHIAL PLEXUS  
 INURY - SPINAL CORD, UNSPEC SITE  
 PALPITATIONS-APCs and VPCs on EKG  
 GOUT  
 HYPOTHYROIDISM  
 ASTHMA  
 PROSTATIC HYPERTROPHY, BENIGN  
 HEMORRHOIDS, UNSPEC  

 
Social History:
___
Family History:
Diabetes: father, paternal grandmother
 
Physical Exam:
Afebrile, VSS
NAD
Unlabored breathing
Abdomen ND, soft, NTTP
Ext wwp

 
Pertinent Results:
None
 
Brief Hospital Course:
The patient was admitted to Dr. ___ service after 
TURP. No concerning intraoperative events occurred; please see 
dictated operative note for details. The patient received 
___ antibiotic prophylaxis. Patient's postoperative 
course was uncomplicated. He received intravenous antibiotics 
and pyridium, maintained on bedrest and continous bladder 
irrigation overnight. On POD1, the CBI and foley catheter were 
discontinued, and he passed a voiding trial.  His urine was 
clear yellow without clots with post-void residual less than 
voided volumes. He remained afebrile throughout his hospital 
stay.  At discharge, patient's pain well controlled with oral 
pain medications, tolerating regular diet, ambulating without 
assistance, and voiding without difficulty. He is given pyridium 
and oral pain medications on discharge, without antibiotics. He 
is given explicit instructions to call Dr. ___.

 
Medications on Admission:
Levothyroxine (LEVOXYL) 125 mcg Oral Tablet TAKE ONE TABLET 
DAILY 
 Allopurinol ___ mg Oral Tablet TAKE ONE TABLET DAILY 
 Clobetasol 0.05 % Topical Cream APPLY TWICE DAILY TO ITCHY 
AREAS FOR UP TO ONE MONTH 
 Clobetasol 0.05 % Topical Ointment apply once to twice daily to 
poison ___ lesion;avoid face,groin and under arms 
 Gabapentin 600 mg Oral Tablet TAKE 1 TABLET up to THREE TIMES 
DAILY 
 Gabapentin 300 mg Oral Capsule TAKE 1 CAPSULE THREE TIMES A DAY 
AS NEEDED 
 Tamsulosin (FLOMAX) 0.4 mg Oral Capsule, Ext Release 24 hr take 
1 capsule 30 minutes after breakfast 
 Cholecalciferol, Vitamin D3, (VITAMIN D) 1,000 unit Oral Tablet 
once daily 
 LORATADINE 10 MG TAB 10 mg Oral Tab as needed  
 MULTIVITAMINS (MULTIVITAMIN ORAL) daily 
 DIAZEPAM 5 MG TAB 5 mg Oral Tab one daily as needed for trismus 

 HYDROCORTISONE VALERATE 0.2 % TOPICAL CREAM APPLY TO ECZEMA AS 
NEEDED 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Allopurinol ___ mg PO DAILY 
3. Bacitracin Ointment 1 Appl TP QID 
apply to penile meautus for catheter irritation/pain 
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg ONE capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
5. Levoxyl *NF* (levothyroxine) 125 mcg Oral daily Reason for 
Ordering: Wish to maintain preadmission medication while 
hospitalized, as there is no acceptable substitute drug product 
available on formulary.
patient may take home medication 
6. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ONE tablet(s) by mouth 
Q6hrs Disp #*30 Tablet Refills:*0
7. Phenazopyridine 100 mg PO TID Duration: 3 Days 
RX *phenazopyridine 100 mg ONE tablet(s) by mouth three times a 
day Disp #*9 Tablet Refills:*0
8. Gabapentin 600 mg PO TID neuritis 
9. Gabapentin 300 mg PO TID neuritis 
10. Tamsulosin 0.4 mg PO HS 
11. Vitamin D 1000 UNIT PO DAILY 
12. Loratadine *NF* 10 mg Oral Qday 
13. Diazepam 5 mg PO DAILY trismus 
14. Multivitamins 1 TAB PO DAILY 
15. Hydrocortisone ___. Cream 0.2% 1 Appl TP DAILY:PRN eczema 
16. Clobetasol Propionate 0.05% Cream 1 Appl TP BID eczema/other 

17. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 7 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg ONE tablet(s) by 
mouth twice a day Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
BPH w urinary obs/LUTS  [600.01]
Slowing of urinary stream  [788.62]
Incomplete bladder emptying  [788.21]  - Primary

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Do not lift anything heavier than a phone book (10 pounds) or 
drive until you are seen by your Urologist in ___

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume all of your pre-admission medications, except HOLD 
aspirin until you see your urologist in followup

-Complete the course of antibiotics (if prescribed) 

-Continue taking PROSCAR (Finasteride)or Flomax or other such 
"prostate shrinking" medications until you are otherwise advised 
by Dr. ___ at your ___ appointment.  

      -You will be discharged home with a medication called 
PYRIDIUM that will help with the "burning" pain you may 
experience when voiding. This medication may turn your urine
bright orange.

      -Colace has been prescribed to avoid post surgical 
constipation and constipation related to narcotic pain 
medication. Discontinue if loose stool or diarrhea develops. 
Colace is a stool softener, NOT a laxative

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthrough pain >4. 
Replace Tylenol with narcotic pain medication.

-Max daily Tylenol (acetaminophen) dose is 4 grams from ALL 
sources, note that narcotic pain medication also contains 
Tylenol

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery.
 
Followup Instructions:
___